US06303600B1
1-Butyloxycarbonyl-3-methyl-indole-6-carboxylic acid
A stirred solution of 3-methyl-indole-6-carboxylic acid in dichloromethane (100 ml) was treated with di-tert-butyl dicarbonate (5.4 g), triethylamine (3.5 ml) and 4-dimethylaminopyridine (0.1 g). After stirring at room temperature for 4 hours the reaction mixture was evaporated. The residue was partitioned three times between dichloromethane (100 ml) and water (100 ml). The combined organic layers were washed with ice-cold dilute hydrochloric acid (200 ml, 0.1N), then with brine (150 ml), then dried over sodium sulphate and then evaporated. The residue was subjected to flash chromatography to yield the title compound (2.5 g) as a white solid. NMR {(CD3)2SO}: δ2.30(s), 7.50-7.60(m), 7.80-7.90(s), 8.70(s).

reactant | 3-methyl-indole-6-carboxylic acid | CC1=CNC2=CC(=CC=C12)C(=O)O | C10H9NO2
reactant | di-tert-butyl dicarbonate | 5.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-Butyloxycarbonyl-3-methyl-indole-6-carboxylic acid | 2.5 g | C(CCC)OC(=O)N1C=C(C2=CC=C(C=C12)C(=O)O)C | C15H17NO4
